2143-07-02 07:35:00 Physician Resident Progress Note
Chief Complaint: RUQ pain
   24 Hour Events:
   - had ERCP- stone were seen, not yet removed, sphinterotomy done, stent
   placed, bile with pus drained, will need repeat ERCP in 6 weeks with
   stone removal and stent removal
   - NPO for gallstone pancreatitis
   - continued IVF
   - sats 88-90% on NC 3 liters, no sx, started standing atrovent and
   albuterol nebs
   - later more SOB sating 87% on 6L NC,  had CXR showing pulmonary edema,
   gave lasix 40mg IV x 2, UO of >1000ml, and then 93% on 3L NC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-7-1**] 08:00 PM
   Morphine Sulfate - [**2143-7-1**] 11:00 PM
   Furosemide (Lasix) - [**2143-7-2**] 12:28 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 71 (67 - 111) bpm
   BP: 141/43(66) {125/27(53) - 186/71(141)} mmHg
   RR: 26 (21 - 43) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  7,463 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                  4,463 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    780 mL
   Urine:
                                                                  1,550 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,913 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///16/
   Physical Examination
   General: Patient alert, sitting up comfortably in chair, no acute
   distress
   HEENT: moist mucous membranes, oropharynx clear
   LUNGS: clear to auscultation bilaterally, no wheezes or rhonchi
   CV: regular rate and rhythm, holosystolic murmur heard throughout
   Abdomen: soft, non-tender, non-distended
   Extremities, no c/c/e
   Neurologically intact
   Labs / Radiology
   141 K/uL
   11.9 g/dL
   211 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.9 mEq/L
   17 mg/dL
   108 mEq/L
   138 mEq/L
   34.2 %
   12.0 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
   WBC
   10.2
   12.0
   Hct
   33.2
   34.2
   Plt
   147
   141
   Cr
   0.9
   1.0
   1.0
   TropT
   <0.01
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8371**]
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:23/3/<0.01, ALT / AST:145/63, Alk Phos / T Bili:268/4.8,
   Amylase / Lipase:/93, Differential-Neuts:81.2 %, Lymph:9.9 %, Mono:8.5
   %, Eos:0.3 %, Albumin:3.5 g/dL, LDH:309 IU/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.1 mg/dL
   [**7-1**] RUQ U/S Final read: Choledocolithiasis or cholelithiasis
   [**7-1**] Echo: VF>55%, mild AV stenosis
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
   77yo gentleman with CAD, HTN, and DM presenting with RUQ pain and
   obstructive LFTs concerning for cholangitis.
   # RUQ pain / Elevated LFTs:
   Clinical presentation concerning for cholangitis, although he may also
   have pancreatitis (suggested by labs but not by physical exam).  His
   imaging is suggestive of coincident cholecystitis, but he has no
   indication at present for urgent cholecystectomy.  Although biliary
   sludge or gallstones may explain all of the above findings, would also
   consider that he is an elderly gentleman with a smoking history.  It is
   unclear if his age-appropriate cancer screening is up to date.
   - continue unasyn (3g Q6H; Day 1 = [**6-30**]) but would add vancomycin to
   cover enterococcus if he clinically worsens
   - IV fluids for hydration, but will be a little less aggressive with
   boluses given mild crackles on exam (note that pt is on lasix at home,
   although the indication is unclear)
   - morphine IV for pain
   - plan for ERCP in AM
   - monitor clinical exam, VS
   - appreciate surgical input re: possibility of cholecystectomy
 NOTE
   pt wants to move to West Haven [**Hospital **] Hospital for this procedure due to
   proximity to home.
   - follow LFTs, fever curve, mental status
   - f/u blood cultures
   - f/u final reads of CT
   # Atrial Fibrillation: Pt noted to be in Afib with RVR on [**2143-7-2**]
   around 1pm, asymptomatic (no chest pain or palpitations).  Pt treated
   with lopressor 5mg x 3, diltiazem 10 mg x2, loaded with PO metoprolol.
   Initial CK and troponin c normal. 12-lead EKG with Afib.
   - review previous echo
   - continue monitoring rate
   - continue metoprolol (previously on medicaton as outpatient)
   - check second set of CE
s at 9pm
   # Low grade fevers:
   Likely due to above, but will send UA/UCx and f/u BCx in this
   diabetic.  Also note that he has a cough on exam, although he states
   this is a chronic cough for him, likely from bronchitis due to his long
   smoking history.
   .
   # HTN:
   Pt hypertensive to SBP in 230s in the ED.  Given concern for developing
   cholangitis, will hold back on giving him all of his home meds, but
   will start short-acting ACE I to prevent severe HTN.
   - captopril 12.5mg TID; titrate up as needed for goal BPs < 170/110
   - was holding metoprolol to avoid masking tachycardia, however, due to
   Afib metoprolol started.
   .
   # Altered mental status:
   Pt. no longer altered.  [**Month (only) 51**] be due to sundowning in this elderly
   gentleman who has been to multiple hospitals and received IV
   narcotics.  Would also be concerned about CO2 retention given smoking
   history.  Although altered mental status can be a marker of worsening
   cholangitis, he has not shown evidence of septic physiology, so this is
   less likely the culprit.  Finally, given elevated pressures in ED, ICH
   is in differential.
   - cautious use of narcotic medications
   - monitor
   .
   # DM:
   Apparently, only on oral meds at home.  Elevated glucose in ED likely
   due to infection, stress reaction.
   -          SSI for now, consider long acting insulin when transfer to
   floor
   -          Consider restarting home meds
   -          Verify home meds with significant other
   .
   # Mild gap acidosis:
   - lactate was normal in the ED, AG now 14
   - will monitor
   .
   # Nausea:
   Resolved, was likely related to possible cholangitis/pancreatitis.
   However, given that he is a diabetic with a history of coronary
   disease, this can be a sign of cardiac ischemia.  EKG is reassuring.
   - monitor
   .
   # CAD s/p CABG:
   - continue ASA
   - continue ACE inhibitor
   - continue statin
   .
   # PVD:
   - holding cilostazol as non-formulary med
   .
   # Question of thyroid nodule:  Per review of OSH records.
   - will check TFTs
   - follow up as outpatient
   .
   # Tobacco abuse:
   - counsel regarding tobacco cessation
   - offer nicotine patch
   - continue advair for ?? COPD; will not order equivalent of formoterol
   or mom[**Name (NI) **] as he has beta agonist and steroid in advair
   .
   # Likely dyslipidemia:
   Not on problem list from OSH records, but on statin and gemfibrozil.
   -restarted simvastatin, holding gemfibrozil until LFTs improve
   .
   # Likely BPH:  hold terazosin for now in case his BP begins to drop
   from cholangitis, but will monitor
   .
   # Anemia:  current hct 33, baseline hct not known
   - check iron studies, retics, peripheral smear
   - active type and screen given h/o GI bleed
   - stool is guaiac negative
   - monitor
   .
   # h/o Prostate CA:  resolved, per pt
   ICU [**Name (NI) 81**]
   Nutrition: started on clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-1**] 08:09 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  Omeperazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Transfer to medicine floor after Afib stabilized with rate
   control

2143-07-02 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress (acute pulmonary edema)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced acute pulmonary edema last PM --> responded clinically to
   net diuresis.
   Feels well this AM.
   ERCP-placed stent yesterday.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-7-1**] 08:00 PM
   Morphine Sulfate - [**2143-7-1**] 11:00 PM
   Furosemide (Lasix) - [**2143-7-2**] 12:28 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-7-2**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 62 (62 - 111) bpm
   BP: 163/45(75) {125/27(53) - 186/71(141)} mmHg
   RR: 27 (21 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  7,463 mL
                                                                    585 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  4,463 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,125 mL
   Urine:
                                                                  1,550 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,913 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   141 K/uL
   211 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.9 mEq/L
   17 mg/dL
   108 mEq/L
   138 mEq/L
   34.2 %
   12.0 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
   WBC
   10.2
   12.0
   Hct
   33.2
   34.2
   Plt
   147
   141
   Cr
   0.9
   1.0
   1.0
   TropT
   <0.01
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8371**]
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:23/3/<0.01, ALT / AST:145/63, Alk Phos / T Bili:268/4.8,
   Amylase / Lipase:/93, Differential-Neuts:81.2 %, Lymph:9.9 %, Mono:8.5
   %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL, LDH:309 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Cholecycstitis, cholangitits.
   SEPSIS -- fevers, chills, elevated WBC --> concern for cholescystitis.
   Empirical Unasyn.
   RESP DISTRESS -- attributed to acute pulmonary edema.  Clinically
   resolved.  Continue usual meds including lasix.
   RUQ PAIN -- attributed to cholecystitits, choledocholithiasis --> may
   have passed stone based on clinical symptoms and LFTs.  General Surgery
   evaluated and following.   ERCP team to evaluate.  Pt. indicates he
   wishes to have surgery in VAH.
   FLUIDS --  replete.  Monitor I/O.  Desire net negative fluid balance.
   ELEVATED LFTs -- replete to K >4.0.
   ELEVATED LIPASE -- evidence for pancreatits (chemical).  Monitor.  NPO
   until evaluation complete.
   ALTERED MENTAL STATUS -- resolved.  Likely related to medications
   (narcotics)
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-1**] 08:09 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2143-07-03 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2143-7-2**] 12:35 PM
 SPUTUM CULTURE - At [**2143-7-2**] 05:09 PM
 CALLED OUT
   -sats improved to 94% on NC 3L, atrovent changed to PRN dosing
   -final read of CT still pending
   --1.3 fluid balance
   -Afib w/rvr, ST segment changes and mildly elevated trops to 0.03,
   treated with dilt and metoprolol.  Trend trops.  Consider dilt drip if
   pt remains tachy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2143-7-3**] 12:23 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-7-2**] 01:55 PM
   Diltiazem - [**2143-7-2**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-3**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 122 (62 - 130) bpm
   BP: 148/68(81) {124/43(65) - 170/89(100)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  1,535 mL
                                                                    159 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    595 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                    110 mL
   Urine:
                                                                  2,905 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   11.9 g/dL
   211 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.9 mEq/L
   17 mg/dL
   108 mEq/L
   138 mEq/L
   34.2 %
   12.0 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
                             [**2143-7-2**]  01:05 PM
                             [**2143-7-2**]  08:56 PM
   WBC
   10.2
   12.0
   Hct
   33.2
   34.2
   Plt
   147
   141
   Cr
   0.9
   1.0
   1.0
   TropT
   <0.01
   0.03
   0.03
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8371**]
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:70/3/0.03, ALT / AST:145/63, Alk Phos / T Bili:268/4.8,
   Amylase / Lipase:/93, Differential-Neuts:81.2 %, Lymph:9.9 %, Mono:8.5
   %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL, LDH:309 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
   77yo gentleman with CAD, HTN, and DM presenting with RUQ pain and
   obstructive LFTs concerning for cholangitis.
   # RUQ pain / Elevated LFTs:
   Clinical presentation concerning for cholangitis, although he may also
   have pancreatitis (suggested by labs but not by physical exam).  His
   imaging is suggestive of coincident cholecystitis, but he has no
   indication at present for urgent cholecystectomy.  Although biliary
   sludge or gallstones may explain all of the above findings, would also
   consider that he is an elderly gentleman with a smoking history.  It is
   unclear if his age-appropriate cancer screening is up to date.
   - continue unasyn (3g Q6H; Day 1 = [**6-30**]) but would add vancomycin to
   cover enterococcus if he clinically worsens
   - IV fluids for hydration, but will be a little less aggressive with
   boluses given mild crackles on exam (note that pt is on lasix at home,
   although the indication is unclear)
   - morphine IV for pain
   - plan for ERCP in AM
   - monitor clinical exam, VS
   - appreciate surgical input re: possibility of cholecystectomy
 NOTE
   pt wants to move to West Haven [**Hospital **] Hospital for this procedure due to
   proximity to home.
   - follow LFTs, fever curve, mental status
   - f/u blood cultures
   - f/u final reads of CT
   # Atrial Fibrillation: Pt noted to be in Afib with RVR on [**2143-7-2**]
   around 1pm, asymptomatic (no chest pain or palpitations).  Pt treated
   with lopressor 5mg x 3, diltiazem 10 mg x2, loaded with PO metoprolol.
   Initial CK and troponin c normal. 12-lead EKG with Afib.
   - review previous echo
   - continue monitoring rate
   - continue metoprolol (previously on medicaton as outpatient)
   - check second set of CE
s at 9pm
   # Low grade fevers:
   Likely due to above, but will send UA/UCx and f/u BCx in this
   diabetic.  Also note that he has a cough on exam, although he states
   this is a chronic cough for him, likely from bronchitis due to his long
   smoking history.
   .
   # HTN:
   Pt hypertensive to SBP in 230s in the ED.  Given concern for developing
   cholangitis, will hold back on giving him all of his home meds, but
   will start short-acting ACE I to prevent severe HTN.
   - captopril 12.5mg TID; titrate up as needed for goal BPs < 170/110
   - was holding metoprolol to avoid masking tachycardia, however, due to
   Afib metoprolol started.
   .
   # Altered mental status:
   Pt. no longer altered.  [**Month (only) 51**] be due to sundowning in this elderly
   gentleman who has been to multiple hospitals and received IV
   narcotics.  Would also be concerned about CO2 retention given smoking
   history.  Although altered mental status can be a marker of worsening
   cholangitis, he has not shown evidence of septic physiology, so this is
   less likely the culprit.  Finally, given elevated pressures in ED, ICH
   is in differential.
   - cautious use of narcotic medications
   - monitor
   .
   # DM:
   Apparently, only on oral meds at home.  Elevated glucose in ED likely
   due to infection, stress reaction.
   -          SSI for now, consider long acting insulin when transfer to
   floor
   -          Consider restarting home meds
   -          Verify home meds with significant other
   .
   # Mild gap acidosis:
   - lactate was normal in the ED, AG now 14
   - will monitor
   .
   # Nausea:
   Resolved, was likely related to possible cholangitis/pancreatitis.
   However, given that he is a diabetic with a history of coronary
   disease, this can be a sign of cardiac ischemia.  EKG is reassuring.
   - monitor
   .
   # CAD s/p CABG:
   - continue ASA
   - continue ACE inhibitor
   - continue statin
   .
   # PVD:
   - holding cilostazol as non-formulary med
   .
   # Question of thyroid nodule:  Per review of OSH records.
   - will check TFTs
   - follow up as outpatient
   .
   # Tobacco abuse:
   - counsel regarding tobacco cessation
   - offer nicotine patch
   - continue advair for ?? COPD; will not order equivalent of formoterol
   or mom[**Name (NI) **] as he has beta agonist and steroid in advair
   .
   # Likely dyslipidemia:
   Not on problem list from OSH records, but on statin and gemfibrozil.
   -restarted simvastatin, holding gemfibrozil until LFTs improve
   .
   # Likely BPH:  hold terazosin for now in case his BP begins to drop
   from cholangitis, but will monitor
   .
   # Anemia:  current hct 33, baseline hct not known
   - check iron studies, retics, peripheral smear
   - active type and screen given h/o GI bleed
   - stool is guaiac negative
   - monitor
   .
   # h/o Prostate CA:  resolved, per pt
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-1**] 08:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-07-03 10:37:00 Physician Attending Progress Note
Chief Complaint:  A-fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Developed a-fib last PM, required b-blocker for rate control.  No
   significant response to diltiazem.
   No chest pain, but ECG demonstrated inf. ST segment depression.
   Transient hypotension this AM
 resolved with iv fluid bolus.
   Offers no new complaints.
                                  History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2143-7-3**] 06:07 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-7-2**] 01:55 PM
   Diltiazem - [**2143-7-2**] 09:09 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-3**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-7-3**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 106 (68 - 130) bpm
   BP: 86/51(60) {86/45(60) - 170/97(107)} mmHg
   RR: 25 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  1,535 mL
                                                                    802 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    595 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                    430 mL
   Urine:
                                                                  2,905 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   130 K/uL
   172 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.1 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   31.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
                             [**2143-7-2**]  01:05 PM
                             [**2143-7-2**]  08:56 PM
                             [**2143-7-3**]  05:03 AM
   WBC
   10.2
   12.0
   8.0
   Hct
   33.2
   34.2
   31.0
   Plt
   147
   141
   130
   Cr
   0.9
   1.0
   1.0
   0.9
   TropT
   <0.01
   0.03
   0.03
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8388**]72
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:59/3/0.03, ALT / AST:82/26, Alk Phos / T Bili:238/3.4,
   Amylase / Lipase:56/26, Differential-Neuts:81.2 %, Lymph:9.9 %,
   Mono:8.5 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL,
   LDH:309 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Cholecycstitis, cholangitits.
   SEPSIS -- fevers, chills, elevated WBC --> concern for cholangitis,
   cholescystitis.  Empirical Unasyn.  Clinically improved.
   A-FIB -- [**Last Name **] problem.  Dilated [**Name2 (NI) **] by echo, mild AS.  Control rate with
   lopressor.  [**Month (only) 51**] require Digoxin if b-blocker not effective.  Consider
   Cardiiology consultation.  Consider anticoagulation.
   CAD
 likely accounts for troponin leak (likely demand ischemia from
   flash pulmonary eema), although cannot exclude primary ischemia.  Will
   require cardiac clearance prior to surgery.
   RESP DISTRESS -- attributed to acute pulmonary edema.  Clinically
   resolved.  Continue usual meds including lasix.
   RUQ PAIN -- attributed to cholecystitits, choledocholithiasis --> may
   have passed stone based on clinical symptoms and LFTs.  General Surgery
   evaluated and following.   ERCP team to evaluate.  Pt. indicates he
   wishes to have surgery in VAH.
   FLUIDS --  replete.  Monitor I/O.  Desire net negative fluid balance.
   ELEVATED LFTs -- replete to K >4.0.
   ELEVATED LIPASE -- evidence for pancreatits (chemical).  Improved.
   Advance diet as approved per Surgery.
   NIDDM
 maintain control, maintain <150.
   ALTERED MENTAL STATUS -- resolved.  Likely related to medications
   (narcotics)
   THYROID NODULE
 needs outpatient follow up.
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-1**] 08:09 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-07-04 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2143-7-3**] 04:44 PM
   -metoprolol increased to 75 mg tid
   -HR elevated to 130's after neb treatments, no intervention required
   -haldol 5mg x1, ativan 2 mg x1 given due to agitation as pt would not
   speak with physicians or wife
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2143-7-4**] 06:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-7-3**] 12:00 PM
   Diltiazem - [**2143-7-3**] 12:08 PM
   Metoprolol - [**2143-7-3**] 01:15 PM
   Haloperidol (Haldol) - [**2143-7-3**] 05:10 PM
   Lorazepam (Ativan) - [**2143-7-3**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 102 (88 - 132) bpm
   BP: 157/82(97) {86/43(60) - 178/83(99)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  1,270 mL
                                                                    268 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    370 mL
   Urine:
                                                                  1,530 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -260 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   9.2 g/dL
   114 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.3 mEq/L
   10 mg/dL
   94 mEq/L
   136 mEq/L
   28.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
                             [**2143-7-2**]  01:05 PM
                             [**2143-7-2**]  08:56 PM
                             [**2143-7-3**]  05:03 AM
                             [**2143-7-4**]  03:59 AM
   WBC
   10.2
   12.0
   8.0
   13.4
   Hct
   33.2
   34.2
   31.0
   28.5
   Plt
   147
   141
   130
   273
   Cr
   0.9
   1.0
   1.0
   0.9
   0.4
   TropT
   <0.01
   0.03
   0.03
   0.02
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8388**]72
   114
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:59/3/0.02, ALT / AST:20/22, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:56/26, Differential-Neuts:81.2 %, Lymph:9.9 %,
   Mono:8.5 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL,
   LDH:309 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
   77yo gentleman with CAD, HTN, and DM presenting with RUQ pain and
   obstructive LFTs concerning for cholangitis.
   # RUQ pain / Elevated LFTs:
   Clinical presentation concerning for cholangitis vs pancreatitis
   (suggested by labs but not by physical exam).  Imaging was consistent
   with coincident cholecystitis, but he had no indication at present for
   urgent cholecystectomy.  s/p ERCP with sphincterotomy and stent
   placement (see ERCP report for further results).  He is clinically
   improved and is experiencing no further abdominal discomfort.
   - continue unasyn (3g Q6H; Day 1 = [**6-30**]) but would add vancomycin to
   cover enterococcus if he clinically worsens
   - appreciate surgical input re: possibility of cholecystectomy who
   agree with plan to transfer patient as per request to West Haven VA
   - follow LFTs, fever curve, mental status
   - f/u final reads of CT
   -pt will need repeat ERCP in 6 weeks to pull billiary stent
   # Atrial Fibrillation: Pt noted to be in Afib with RVR on [**2143-7-2**]
   around 1pm, asymptomatic (no chest pain or palpitations).  Pt treated
   with lopressor 5mg x 3, diltiazem 10 mg x2, loaded with PO metoprolol.
   CK normal with troponin leak. 12-lead EKG with Afib.  Patient developed
   hypotension with increase dose metoprolol to 75mg PO TID
   - etiology: unclear whether new onset vs. paroxysmal Afib (enlarged
   LAE); will check VA records
   - continue monitoring rate
   - start digoxin for better rate control, monitor and replete K as
   needed
   -contraindication to anticoagulation as patient has had hx of recent GI
   bleed [**2-11**] to gastric ulcer
   # Low grade fevers:
   Likely due to above, but will send UA/UCx and f/u BCx in this
   diabetic.  Also note that he has a cough on exam, although he states
   this is a chronic cough for him, likely from bronchitis due to his long
   smoking history.
   .
   #  labile BP: HTN with transint episode of hypotension responsive to
   fluid bolus
   -initially received captopril [**2-11**] HTN in ER
   - hx. of HTN on home metoprolol- increased dose to 50mg TID for blood
   pressure and rate control
   ..
   # DM: poor control on SSI
   - patient
s outpatient medication held on hospitalization
   - added glargine 5 Units daily, adjust as needed to maintain euglycemia
   # CAD s/p CABG:
   - continue ASA, statin
   - ACE inhibitor on hold for now
   .
   # PVD: holding cilostazol as non-formulary med
   .
   # Question of thyroid nodule:  Per review of OSH records.
   - will check TFTs
   - follow up as outpatient
   .
   # Tobacco abuse:
   - counsel regarding tobacco cessation
   - offer nicotine patch
   - continue advair for ?? COPD; will not order equivalent of formoterol
   or mom[**Name (NI) **] as he has beta agonist and steroid in advair
   .
   # Likely dyslipidemia:
   Not on problem list from OSH records, but on statin and gemfibrozil.
   -restarted simvastatin, holding gemfibrozil until LFTs improve
   .
   # Likely BPH:  hold terazosin for now in case his BP begins to drop
   from cholangitis, but will monitor
   .
   # Anemia:  current hct 33, baseline hct not known
   - check iron studies, retics, peripheral smear
   - active type and screen given h/o GI bleed
   - stool is guaiac negative
   - monitor
   .
   # h/o Prostate CA:  resolved, per pt
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2143-7-3**] 09:12 PM
   Prophylaxis:
   DVT: heparine proph
   Stress ulcer:  omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-07-04 12:37:00 Physician Attending Progress Note
Chief Complaint: Cholecytitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced confusion and delerium yesterday afternoon and evening.
   Improved with haldol and benzodiazepine.
   Improved this AM.
   Offers no new comlaints.
   Denies abd pain.
   Denies chest pain.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2143-7-2**] 12:28 AM
   Ampicillin/Sulbactam (Unasyn) - [**2143-7-4**] 12:08 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-7-3**] 01:15 PM
   Haloperidol (Haldol) - [**2143-7-3**] 05:10 PM
   Lorazepam (Ativan) - [**2143-7-3**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Flowsheet Data as of  [**2143-7-4**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 91 (74 - 123) bpm
   BP: 137/63(78) {121/43(71) - 178/83(99)} mmHg
   RR: 25 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.3 kg (admission): 86.3 kg
             Total In:
                                                                  1,270 mL
                                                                    420 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    750 mL
   Urine:
                                                                  1,530 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -260 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   273 K/uL
   114 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.3 mEq/L
   10 mg/dL
   94 mEq/L
   136 mEq/L
   28.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2143-7-1**]  02:54 AM
                             [**2143-7-1**]  05:44 AM
                             [**2143-7-1**]  06:40 PM
                             [**2143-7-2**]  04:52 AM
                             [**2143-7-2**]  01:05 PM
                             [**2143-7-2**]  08:56 PM
                             [**2143-7-3**]  05:03 AM
                             [**2143-7-4**]  03:59 AM
   WBC
   10.2
   12.0
   8.0
   13.4
   Hct
   33.2
   34.2
   31.0
   28.5
   Plt
   147
   141
   130
   273
   Cr
   0.9
   1.0
   1.0
   0.9
   0.4
   TropT
   <0.01
   0.03
   0.03
   0.02
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8388**]72
   114
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:59/3/0.02, ALT / AST:20/22, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:56/26, Differential-Neuts:81.2 %, Lymph:9.9 %,
   Mono:8.5 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL,
   LDH:309 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Cholecycstitis, cholangitits.  A-fib.
   SEPSIS -- Cholangitis, cholescystitis.  Empirical Unasyn.  Clinically
   improved.
   A-FIB -- [**Last Name **] problem.  Dilated [**Name2 (NI) **] by echo, mild AS.  Control rate with
   lopressor.  Consider anticoagulation.
   CAD
 likely accounts for troponin leak (likely demand ischemia from
   flash pulmonary eema), although cannot exclude primary ischemia.  Will
   require cardiac clearance prior to surgery.
   DELERIUM -- ICU psychosis vs. EtOH.  Good response to haldol and
   ativan.  Monitor.
   RESP DISTRESS -- attributed to acute pulmonary edema.  Clinically
   resolved.  Continue usual meds including lasix.
   RUQ PAIN -- attributed to cholecystitits, choledocholithiasis --> may
   have passed stone based on clinical symptoms and LFTs.  General Surgery
   evaluated and following.    Pt. indicates he wishes to have surgery in
   VAH.
   FLUIDS --  replete.  Monitor I/O.  Desire net negative fluid balance.
   ELEVATED LFTs -- replete to K >4.0.
   ELEVATED LIPASE -- evidence for pancreatits (chemical).  Improved.
   Advance diet as approved per Surgery.
   NIDDM
 maintain control, maintain <150.
   ALTERED MENTAL STATUS -- resolved.  Likely related to medications
   (narcotics)
   THYROID NODULE
 needs outpatient follow up.
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-7-3**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes